### PR TITLE
[Merged by Bors] - feat: maps from the unitization of non-unital subobjects of unital algebras

### PR DESCRIPTION
**Pull request by j-loreaux**
If S is non-unital subalgebra of a unital R-algebra A, there is a natural map `Unitization R S →ₐ[R] A` whose range is `Algebra.adjoin R (S : Set A)`. When `1 ∉ S` and `R` is a field, this map is injective, and so we can restrict the codomain to `Algebra.adjoin R (S : Set A)` and turn it into an `AlgEquiv`.

We specialize this to the `ℕ`-unitization of a non-unital subsemiring and its `Subsemiring.closure`, as well as the `ℤ`-unitization of a non-unital subring and its `Subring.closure`. We also extend the above map to a `StarAlgHom` in the case of `NonUnitalStarSubalgebras`.

This continues the non-unital-ization of mathlib.

Co-authored-by: Anatole Dedecker <anatolededecker@gmail.com>

---

Due to some miscommunication on the previous PR #5602 (my fault!) concerning whether or not this was finished, these changes didn't make it in. The previous PR has been reverted in #6717 in order to give a clean diff for this PR. Because this is essentially a fresh PR, I have updated the title PR description.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean [hunk 1]
```diff
@@ -12,86 +12,167 @@ import Mathlib.Algebra.Star.NonUnitalSubalgebra
...
+    | _ r a => simpa using add_mem (algebraMap_mem S r) (h ⟨a, rfl⟩)
+
+theorem Unitization.lift_range (f : A →ₙₐ[R] C) :
+    (Unitization.lift f).range = Algebra.adjoin R (NonUnitalAlgHom.range f : Set C) := by
+  refine le_antisymm (Unitization.lift_range_le.mpr Algebra.subset_adjoin) <| Algebra.adjoin_le ?_
+  rintro - ⟨x, rfl⟩
+  use x
+  simp only [lift_apply, AlgHom.toRingHom_eq_coe, RingHom.coe_coe, NonUnitalAlgHom.toAlgHom_apply,
+    fst_inr, snd_inr, map_zero, zero_add]
+  rfl
```
Comment (ADedecker) [inline Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean:102]:
```suggestion
    (Unitization.lift f).range = Algebra.adjoin R (NonUnitalAlgHom.range f : Set C) :=
  eq_of_forall_ge_iff fun c ↦ by rw [Unitization.lift_range_le, Algebra.adjoin_le_iff]; rfl
```

File: Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean [hunk 2]
```diff
@@ -12,86 +12,167 @@ import Mathlib.Algebra.Star.NonUnitalSubalgebra
...
 isomorphic to its `Algebra.adjoin`. -/
-noncomputable def NonUnitalSubalgebra.unitizationAlgEquiv {R S A : Type _} [Field R] [Ring A]
-    [Algebra R A] [SetLike S A] [NonUnitalSubringClass S A] [SMulMemClass S R A]
-    (s : S) (h1 : (1 : A) ∉ s) : Unitization R s ≃ₐ[R] Algebra.adjoin R (s : Set A) :=
-  AlgEquiv.ofBijective (NonUnitalSubalgebra.unitization s)
-    ⟨NonUnitalSubalgebra.unitization_injective s h1, NonUnitalSubalgebra.unitization_surjective s⟩
+@[simps!]
+noncomputable def NonUnitalSubalgebra.unitizationAlgEquiv (h1 : (1 : A) ∉ s) :
+    Unitization R s ≃ₐ[R] Algebra.adjoin R (s : Set A) := by
+  letI algHom : Unitization R s →ₐ[R] Algebra.adjoin R (s : Set A) :=
```
Comment (ADedecker) [inline Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean:165]:
```suggestion
  let algHom : Unitization R s →ₐ[R] Algebra.adjoin R (s : Set A) :=
```

File: Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean [hunk 3]
```diff
@@ -258,33 +299,85 @@ theorem StarSubalgebra.toNonUnitalStarSubalgebra_toStarSubalgebra (S : StarSubal
...
+theorem Unitization.starLift_range (f : A →⋆ₙₐ[R] C) :
+    (starLift f).range = StarSubalgebra.adjoin R (NonUnitalStarAlgHom.range f : Set C) := by
+  refine le_antisymm (starLift_range_le.mpr <| StarSubalgebra.subset_adjoin R _) <|
+    StarSubalgebra.adjoin_le ?_
+  rintro - ⟨x, rfl⟩
+  use x
+  simp only [starLift_apply, AlgHom.toRingHom_eq_coe, RingHom.coe_coe,
+    NonUnitalAlgHom.toAlgHom_apply, fst_inr, snd_inr, map_zero,
+    NonUnitalStarAlgHom.coe_toNonUnitalAlgHom, zero_add]
+  rfl
```
Comment (ADedecker) [inline Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean:330]:
```suggestion
    (starLift f).range = StarSubalgebra.adjoin R (NonUnitalStarAlgHom.range f : Set C) :=
  eq_of_forall_ge_iff fun c ↦ by 
    rw [Unitization.starLift_range_le, StarSubalgebra.adjoin_le_iff]
    rfl
```

File: Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean [hunk 4]
```diff
@@ -258,33 +299,85 @@ theorem StarSubalgebra.toNonUnitalStarSubalgebra_toStarSubalgebra (S : StarSubal
...
+theorem NonUnitalStarSubalgebra.unitization_injective (h1 : (1 : A) ∉ S) :
+    Function.Injective S.unitization :=
+  AlgHomClass.unitization_injective S h1 S.unitization fun _ ↦ by simp
+
+/-- If a `NonUnitalStarSubalgebra` over a field does not contain `1`, then its unitization is
+isomorphic to its `StarSubalgebra.adjoin`. -/
+@[simps!]
+noncomputable def NonUnitalStarSubalgebra.unitizationStarAlgEquiv (h1 : (1 : A) ∉ S) :
+    Unitization R S ≃⋆ₐ[R] StarSubalgebra.adjoin R (S : Set A) := by
+  letI starAlgHom : Unitization R S →⋆ₐ[R] StarSubalgebra.adjoin R (S : Set A) :=
```
Comment (ADedecker) [inline Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean:369]:
```suggestion
  let starAlgHom : Unitization R S →⋆ₐ[R] StarSubalgebra.adjoin R (S : Set A) :=
```

**Review by ADedecker — COMMENTED** [review]
I agree that the proofs look cleaner, but I'm worried that this could actually cause some usability troubles, because it's much easier to compose by an inclusion than to use `codRestrict`. That's why [orthogonalProjection](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/InnerProductSpace/Projection.html#orthogonalProjection) is defined like that for example.

**Comment by j-loreaux** [comment]
> I agree that the proofs look cleaner, but I'm worried that this could actually cause some usability troubles, because it's much easier to compose by an inclusion than to use `codRestrict`. That's why [orthogonalProjection](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/InnerProductSpace/Projection.html#orthogonalProjection) is defined like that for example.

Thanks for the comment. Yes, I understand that. I guess my claim with this PR is that I expect the case where one needs to the map into the subtype to be the rarer of the two, **and**, in the case where one does actually want the map into the subtype, it is likely the case that an equivalence is in fact desired. I'm happy to eat my words if you have a class of counterexamples though! :smiley: 

As far as [orthogonalProjection](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/InnerProductSpace/Projection.html#orthogonalProjection) goes, while I recognize that version is important too and maps between different Hilbert spaces are necessary to have around, we're definitely going to need the version where it is composed with `Subtype.val` so that it maps from a space to itself. Why? Well, as far as operator algebras are concerned, that's the version that it actually a positive operator! So, I don't consider this sufficiently strong motivation for mapping into the subtype.

**Comment by ADedecker** [comment]
> > I agree that the proofs look cleaner, but I'm worried that this could actually cause some usability troubles, because it's much easier to compose by an inclusion than to use `codRestrict`. That's why [orthogonalProjection](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/InnerProductSpace/Projection.html#orthogonalProjection) is defined like that for example.
> 
> Thanks for the comment. Yes, I understand that. I guess my claim with this PR is that I expect the case where one needs to the map into the subtype to be the rarer of the two, **and**, in the case where one does actually want the map into the subtype, it is likely the case that an equivalence is in fact desired. I'm happy to eat my words if you have a class of counterexamples though! smiley
> 
> As far as [orthogonalProjection](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/InnerProductSpace/Projection.html#orthogonalProjection) goes, while I recognize that version is important too and maps between different Hilbert spaces are necessary to have around, we're definitely going to need the version where it is composed with `Subtype.val` so that it maps from a space to itself. Why? Well, as far as operator algebras are concerned, that's the version that is actually a positive operator! So, I don't consider this sufficiently strong motivation for mapping into the subtype.

Ah right the idea is "although it makes situation A harder, it makes situation B slightly easier and that's worth it because B happens way more often than A". That's fine for me then.

For orthogonal projection, do you think an abbrev for the composition would be enough? This is completely unrelated to this PR of course.

File: Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean [hunk 5]
```diff
@@ -12,86 +12,162 @@ import Mathlib.Algebra.Star.NonUnitalSubalgebra
...
+  AlgHomClass.unitization_injective s h1 (NonUnitalSubalgebra.unitization s) fun _ ↦ by simp
 
 /-- If a `NonUnitalSubalgebra` over a field does not contain `1`, then its unitization is
 isomorphic to its `Algebra.adjoin`. -/
-noncomputable def NonUnitalSubalgebra.unitizationAlgEquiv {R S A : Type _} [Field R] [Ring A]
-    [Algebra R A] [SetLike S A] [NonUnitalSubringClass S A] [SMulMemClass S R A]
-    (s : S) (h1 : (1 : A) ∉ s) : Unitization R s ≃ₐ[R] Algebra.adjoin R (s : Set A) :=
-  AlgEquiv.ofBijective (NonUnitalSubalgebra.unitization s)
-    ⟨NonUnitalSubalgebra.unitization_injective s h1, NonUnitalSubalgebra.unitization_surjective s⟩
+@[simps!]
```
Comment (ADedecker) [inline Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean:157]:
```suggestion
@[simps! apply_coe]
```
The generated `symm_apply` lemma is at best completely useless, at worst simp-set poisoning

File: Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean [hunk 6]
```diff
@@ -258,33 +294,80 @@ theorem StarSubalgebra.toNonUnitalStarSubalgebra_toStarSubalgebra (S : StarSubal
...
+variable {R A : Type _} [Field R] [StarRing R] [Ring A] [StarRing A] [Algebra R A] [StarModule R A]
+variable (S : NonUnitalStarSubalgebra R A)
+
+theorem NonUnitalStarSubalgebra.unitization_injective (h1 : (1 : A) ∉ S) :
+    Function.Injective S.unitization :=
+  AlgHomClass.unitization_injective S h1 S.unitization fun _ ↦ by simp
+
+/-- If a `NonUnitalStarSubalgebra` over a field does not contain `1`, then its unitization is
+isomorphic to its `StarSubalgebra.adjoin`. -/
+@[simps!]
```
Comment (ADedecker) [inline Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean:356]:
```suggestion
@[simps! apply_coe]
```
Ditto

File: Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean [hunk 7]
```diff
@@ -12,86 +12,162 @@ import Mathlib.Algebra.Star.NonUnitalSubalgebra
...
+    ((NonUnitalSubalgebra.unitization s).codRestrict _
+      fun x ↦ NonUnitalSubalgebra.unitization_range s ▸ ⟨x, rfl⟩)
+  refine AlgEquiv.ofBijective algHom ⟨?_, fun x ↦ ?_⟩
+  · have := AlgHomClass.unitization_injective s h1
+      ((Subalgebra.val _).comp <| algHom) fun _ ↦ by simp
+    simp only [AlgHom.coe_comp, Subalgebra.coe_val] at this
+    exact this.of_comp
+  · obtain (⟨a, ha⟩ : (x : A) ∈ (NonUnitalSubalgebra.unitization s).range) :=
+      (NonUnitalSubalgebra.unitization_range s).symm ▸ x.property
+    exact ⟨a, Subtype.ext ha⟩
```
Comment (ADedecker) [inline Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean:170]:
```suggestion
    Unitization R s ≃ₐ[R] Algebra.adjoin R (s : Set A) :=
  let algHom : Unitization R s →ₐ[R] Algebra.adjoin R (s : Set A) :=
    ((NonUnitalSubalgebra.unitization s).codRestrict _
      fun x ↦ (NonUnitalSubalgebra.unitization_range s).le <| AlgHom.mem_range_self _ x)
  AlgEquiv.ofBijective algHom <| by
    refine ⟨?_, fun x ↦ ?_⟩
    · have := AlgHomClass.unitization_injective s h1
        ((Subalgebra.val _).comp <| algHom) fun _ ↦ by simp
      simp only [AlgHom.coe_comp, Subalgebra.coe_val] at this
      exact this.of_comp
    · obtain (⟨a, ha⟩ : (x : A) ∈ (NonUnitalSubalgebra.unitization s).range) :=
        (NonUnitalSubalgebra.unitization_range s).ge x.property
      exact ⟨a, Subtype.ext ha⟩
```

Two changes here:
- no more data defined in tactic mode. It was probably fine but I'm scared of defining data in tactic mode, and I also find it a bit cleaner to have a clear distinction
- I replaced some rewriting along `NonUnitalSubalgebra.unitization_range s` by applying the `.le` or `.ge` version. Personally I think it's a bit cleaner, but if you don't like it I have no problem with the original version.

File: Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean [hunk 8]
```diff
@@ -258,33 +294,80 @@ theorem StarSubalgebra.toNonUnitalStarSubalgebra_toStarSubalgebra (S : StarSubal
...
+    (S.unitization.codRestrict _
+      fun x ↦ S.unitization_range ▸ ⟨x, rfl⟩)
+  refine StarAlgEquiv.ofBijective starAlgHom ⟨?_, fun x ↦ ?_⟩
+  · have h_eq : S.unitization = (StarSubalgebra.subtype _).comp starAlgHom := rfl
+    have this := S.unitization_injective h1
+    rw [h_eq, StarAlgHom.coe_comp] at this
+    exact this.of_comp
+  · obtain (⟨a, ha⟩ : (x : A) ∈ S.unitization.range) :=
+      S.unitization_range.symm ▸ x.property
+    exact ⟨a, Subtype.ext ha⟩
```
Comment (ADedecker) [inline Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean:369]:
```suggestion
    Unitization R S ≃⋆ₐ[R] StarSubalgebra.adjoin R (S : Set A) :=
  let starAlgHom : Unitization R S →⋆ₐ[R] StarSubalgebra.adjoin R (S : Set A) :=
    (S.unitization.codRestrict _
      fun x ↦ S.unitization_range.le <| Set.mem_range_self x)
  StarAlgEquiv.ofBijective starAlgHom <| by
    refine ⟨?_, fun x ↦ ?_⟩
    · have h_eq : S.unitization = (StarSubalgebra.subtype _).comp starAlgHom := rfl
      have this := S.unitization_injective h1
      rw [h_eq, StarAlgHom.coe_comp] at this
      exact this.of_comp
    · obtain (⟨a, ha⟩ : (x : A) ∈ S.unitization.range) :=
        S.unitization_range.ge x.property
      exact ⟨a, Subtype.ext ha⟩
```
Same changes as above.

Do you know why this definition is so slow?

File: Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean (hunk 7 above)
Comment (j-loreaux) [reply Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean:170]: Yeah, I thought the tactic mode was safe because I just used `refine` for the data bits, but this is nicer.

File: Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean [hunk 9]
```diff
@@ -261,11 +261,46 @@ theorem NonUnitalSubring.unitization_range (S : NonUnitalSubring R) :
...
+
+theorem Subalgebra.toNonUnitalSubalgebra_toSubalgebra (S : Subalgebra R A) :
+    S.toNonUnitalSubalgebra.toSubalgebra S.one_mem = S := by cases S; rfl
+
+theorem NonUnitalSubalgebra.toSubalgebra_toNonUnitalSubalgebra (S : NonUnitalSubalgebra R A)
+    (h1 : (1 : A) ∈ S) : (NonUnitalSubalgebra.toSubalgebra S h1).toNonUnitalSubalgebra = S := by
+  cases S; rfl
+
+end Subalgebra
+
```
Comment (j-loreaux) [inline Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean:298]:
```suggestion
```

File: Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean [hunk 10]
```diff
@@ -261,11 +261,46 @@ theorem NonUnitalSubring.unitization_range (S : NonUnitalSubring R) :
...
 section StarSubalgebra
 
-section Semiring
+variable {R A : Type*} [CommSemiring R] [StarRing R] [Semiring A] [StarRing A]
```
Comment (j-loreaux) [inline Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean:301]: section Semiring

File: Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean [hunk 11]
```diff
@@ -258,33 +295,81 @@ theorem StarSubalgebra.toNonUnitalStarSubalgebra_toStarSubalgebra (S : StarSubal
...
+    (starLift f).range = StarSubalgebra.adjoin R (NonUnitalStarAlgHom.range f : Set C) :=
+  eq_of_forall_ge_iff fun c ↦ by
+    rw [Unitization.starLift_range_le, StarSubalgebra.adjoin_le_iff]
+    rfl
+
+end StarLiftRange
+
 /-- The natural star `R`-algebra homomorphism from the unitization of a non-unital star subalgebra
 to its `StarSubalgebra.adjoin`. -/
 def NonUnitalStarSubalgebra.unitization (S : NonUnitalStarSubalgebra R A) :
```
Comment (ADedecker) [inline Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean:327]: Maybe we discussed that already, but why can't you use `SetLike` here like you did for subalgebras? The same question applies to the subring and subsemiring results.

Comment (j-loreaux) [reply Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean:327]: good point, I've transitioned to `SetLike` everywhere

File: Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean [hunk 12]
```diff
@@ -12,86 +12,163 @@ import Mathlib.Algebra.Star.NonUnitalSubalgebra
...
-theorem NonUnitalSubalgebra.unitization_surjective :
-    Function.Surjective (NonUnitalSubalgebra.unitization s) :=
-  have : Algebra.adjoin R s ≤ ((Algebra.adjoin R (s : Set A)).val.comp (unitization s)).range :=
-    Algebra.adjoin_le fun a ha ↦ ⟨(⟨a, ha⟩ : s), by simp⟩
-  fun x ↦ match this x.property with | ⟨y, hy⟩ => ⟨y, Subtype.ext hy⟩
-
-variable {R S A : Type*} [Field R] [Ring A] [Algebra R A]
-    [SetLike S A] [hSA : NonUnitalSubringClass S A] [hSRA : SMulMemClass S R A] (s : S)
+theorem NonUnitalSubalgebra.unitization_range :
+    (NonUnitalSubalgebra.unitization s).range = Algebra.adjoin R (s : Set A) := by
```
[the remark this answers is not in the document]
Comment (j-loreaux) [reply Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean:117]: I've tried to do better namespacing throughout the file.

File: Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean [hunk 13]
```diff
@@ -258,33 +306,90 @@ theorem StarSubalgebra.toNonUnitalStarSubalgebra_toStarSubalgebra (S : StarSubal
...
+
+section Semiring
+
+variable {R S A : Type*} [CommSemiring R] [StarRing R] [Semiring A] [StarRing A] [Algebra R A]
+  [StarModule R A] [SetLike S A] [hSA : NonUnitalSubsemiringClass S A] [hSRA : SMulMemClass S R A]
+  [StarMemClass S A] (s : S)
+
+/- variable {R A : Type*} [CommSemiring R] [StarRing R] [Semiring A] [StarRing A]
+variable [Algebra R A] [StarModule R A] -/
+
```
Comment (ADedecker) [inline Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean:348]:
```suggestion
```

File: Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean [hunk 14]
```diff
@@ -258,33 +306,90 @@ theorem StarSubalgebra.toNonUnitalStarSubalgebra_toStarSubalgebra (S : StarSubal
...
+    Unitization R s ≃⋆ₐ[R] StarSubalgebra.adjoin R (s : Set A) :=
+  let starAlgHom : Unitization R s →⋆ₐ[R] StarSubalgebra.adjoin R (s : Set A) :=
+    ((unitization s).codRestrict _
+      fun x ↦ (unitization_range s).le <| Set.mem_range_self x)
+  StarAlgEquiv.ofBijective starAlgHom <| by
+    refine ⟨?_, fun x ↦ ?_⟩
+    · have h_eq : unitization s = (StarSubalgebra.subtype _).comp starAlgHom := rfl
+      have this := unitization_injective s h1
+      rw [h_eq, StarAlgHom.coe_comp] at this
+      exact this.of_comp
```
Comment (ADedecker) [inline Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean:388]: Quick note: I was surprised that the proof was different than in the non-star case, which lead me to discover a small hole in the API (see #6668). But there's really no point in enforcing similar proofs for four quick lines so of course you don't have to wait for that.

Comment (j-loreaux) [reply Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean:384]: Thanks for plugging that hole for me!

File: Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean [hunk 15]
```diff
@@ -12,99 +12,181 @@ import Mathlib.Algebra.Star.NonUnitalSubalgebra
...
+/-! ## Subalgebras -/
+
+section Subalgebra
+
+variable {R A : Type*} [CommSemiring R] [Semiring A] [Algebra R A]
+
+/-- Turn a `Subalgebra` into a `NonUnitalSubalgebra` by forgetting that it contains `1`. -/
+def Subalgebra.toNonUnitalSubalgebra (S : Subalgebra R A) : NonUnitalSubalgebra R A :=
+  { S with
+    smul_mem' := fun r _x hx => S.smul_mem hx r }
```
Comment (eric-wieser) [inline Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean:57]: Is this really the earliest place that this can be defined?

Comment (j-loreaux) [reply Mathlib/Algebra/Algebra/Subalgebra/Unitization.lean:57]: Yes, because neither the unital nor the non-unital subobject files import each other.

**Comment by ocfnash** [comment]
Thanks!

bors merge
